US07485722B2
3-(3-Pyridin-2-yl-benzyl)-1-oxa-3-aza-spiro[4.5]decan-2-one
3-(3-Iodo-benzyl)-1-oxa-3-aza-spiro[4.5]decan-2-one (0.148 mmol, 55 mg), 2-tributylstannanyl-pyridine (0.222 mmol, 81.72 mg), tetrakispalladium(0) (0.03 mmol, 34.2 mg) were combined and dissolved in toluene (5 mL). The reaction mixture was left to stir at 110° C. overnight. It was then filtered through silica and the filtrate was concentrated in vacuo. The residue was purified by SPE flash column chromatography using silica gel and ethyl/acetate/hexanes (0˜50%) as eluent. The product was impure by NMR. Therefore, it was dissolved in dichloromethane, and 2M hydrogen chloride in diethyl ether (10 mL) was added. This solution was concentrated in vacuo, the residue was dissolved in water (10 mL) and washed with hexanes. The aqueous layer was then neutralized using sodium bicarbonate and washed with dichloromethane. The organic layer was concentrated in vacuo to give the final product was a pale yellow gum (10 mg, 21%). 1H NMR (300 MHz, CDCl3): δ (ppm)=8.71 (m, 1H), 7.92 (m, 2H), 7.77 (m, 2H), 7.49 (m, 1H), 7.37 (m, 1H), 7.27 (m, 1H), 4.53 (s, 2H), 3.14 (s, 2H), 1.78 (m, 4H), 1.51 (m, 6H).

reactant | 3-(3-Iodo-benzyl)-1-oxa-3-aza-spiro[4.5]decan-2-one | 0.148 mmol, 55 mg | IC=1C=C(CN2C(OC3(C2)CCCCC3)=O)C=CC1 | C15H18INO2
reactant | 2-tributylstannanyl-pyridine | 0.222 mmol, 81.72 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(3-Pyridin-2-yl-benzyl)-1-oxa-3-aza-spiro[4.5]decan-2-one | N1=C(C=CC=C1)C=1C=C(CN2C(OC3(C2)CCCCC3)=O)C=CC1 | C20H22N2O2
